US07420083B2
{4-[3-(4-tert-Butyl-benzylideneaminooxy)-propoxy]-phenyl}-acetic acid methyl ester was prepared from 1-(4-tert-butyl-phenyl)-ethanone oxime and [4-(3-bromo-propoxy)-phenyl]-acetic acid methyl ester using a procedure similar to step 2 of example 1. It was used crude in the subsequent reaction. 1H NMR (300 MHz, CDCl3); δ 8.07 (s, 1H), 7.52 (d, 2H), 7.40 (d, 2H), 7.20 (d, 2H), 6.88 (d, 2H), 4.35 (t, 2H), 4.10 (t, 2H), 3.70 (s, 3H), 3.58 (s, 2H), 2.21 (m, 2H), 1.34 (s, 9H).

reactant | 1-(4-tert-butyl-phenyl)-ethanone oxime | C(C)(C)(C)C1=CC=C(C=C1)C(C)=NO | C12H17NO
reactant | [4-(3-bromo-propoxy)-phenyl]-acetic acid methyl ester | COC(CC1=CC=C(C=C1)OCCCBr)=O | C12H15BrO3
product | {4-[3-(4-tert-Butyl-benzylideneaminooxy)-propoxy]-phenyl}-acetic acid methyl ester | COC(CC1=CC=C(C=C1)OCCCON=CC1=CC=C(C=C1)C(C)(C)C)=O | C23H29NO4
